US05283248
tert-Butyl 4-[2-[[(benzyloxy)carbamoyl]methyl]-1-cyclopropyl-5-fluoro-6-benzimidazolyl]-1-piperazinecarboxylate (779 mg, 1.18 mmol) is dissolved in tetrahydrofuran (15 ml) and treated with N,N'-carbonyldiimidazole (480 mg, 2.96 mmol) and 1,8-diazabicyclo[5.4.0]-undec-7-ene (225 mg, 1.48 mmol). The suspension obtained is poured into water (200 ml) and then extracted with ethyl acetate. The organic phase is washed in succession with water and 10 percent sodium chloride solution and dried over magnesium sulfate. The solvent is evaporated under reduced pressure and the residue is chromatographed on silica gel (eluent: ethyl acetate/n-hexane 8:2). The product is crystallized from ethyl acetate/n-hexane. There are obtained 42 mg (5%) of tert-butyl 4-[2-(benzyloxy)-5-cyclopropyl-8-fluoro-1,2,3,5-tetrahydro-1,3-dioxopyrimido[1,6-a]benzimidazol-7-yl]-1-piperazinecarboxylate.

reactant | tert-Butyl 4-[2-[[(benzyloxy)carbamoyl]methyl]-1-cyclopropyl-5-fluoro-6-benzimidazolyl]-1-piperazinecarboxylate | 1.18 mmol, 779 mg | C(C1=CC=CC=C1)ONC(=O)CC1=NC2=C(N1C1CC1)C=C(C(=C2)F)N2CCN(CC2)C(=O)OC(C)(C)C | C28H34FN5O4
reactant | 1,8-diazabicyclo[5.4.0]-undec-7-ene | 1.48 mmol, 225 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | 200 ml | O | H2O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | tert-butyl 4-[2-(benzyloxy)-5-cyclopropyl-8-fluoro-1,2,3,5-tetrahydro-1,3-dioxopyrimido[1,6-a]benzimidazol-7-yl]-1-piperazinecarboxylate | 42 mg, 5% | C(C1=CC=CC=C1)ON1C(N2C(N(C3=C2C=C(C(=C3)N3CCN(CC3)C(=O)OC(C)(C)C)F)C3CC3)=CC1=O)=O | C29H32FN5O5
